US04250183
Analogously to Example 1, by using equivalent quantities, reacting N-benzoyl-4-(n-butylamino)butyric acid and ethyl 6-benzhydrylaminocaproate and suitable processing, dissolving the evaporation residue in ethanol, adding an ethanolic solution of potassium hydroxide, stirring for 12 hours at room temperature and further processing yields N-[N-benzoyl-4-(n-butylamino)butyryl]-6-benzhydrylaminocaproic acid.

reactant | N-benzoyl-4-(n-butylamino)butyric acid | C(C1=CC=CC=C1)(=O)N(CCCC(=O)O)CCCC | C15H21NO3
reactant | ethyl 6-benzhydrylaminocaproate | C(C1=CC=CC=C1)(C1=CC=CC=C1)NCCCCCC(=O)OCC | C21H27NO2
reactant | potassium hydroxide | [OH-].[K+]
solvent | ethanol | C(C)O | C2H6O
product | N-[N-benzoyl-4-(n-butylamino)butyryl]-6-benzhydrylaminocaproic acid | C(C1=CC=CC=C1)(=O)N(CCCC(=O)N(CCCCCC(=O)O)C(C1=CC=CC=C1)C1=CC=CC=C1)CCCC | C34H42N2O4
